US04404205
11.8 g. of ethyl 4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine-3-carboxylate are dissolved in 40 ml. of 30% by wieght ammonium hydroxide solution and the reaction mixture is allowed to stand at room temperature for 2 hours. The precipitated crystals are filtered and washed with water. 10.1 g. (97.5%) of 3-carbamoyl-4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine are obtained melting at 234°-235° C.

reactant | ethyl 4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine-3-carboxylate | O=C1C(=CN=C2N1CCCCC2)C(=O)OCC | C12H16N2O3
reactant | ammonium hydroxide | [OH-].[NH4+]
product | 3-carbamoyl-4-oxo-4,6,7,8,9,10-hexahydro-pyrimido[1,2-a]azepine | 97.5% | C(N)(=O)C1=CN=C2N(CCCCC2)C1=O | C10H13N3O2
